US08461133B2
Piroxicam/β-cyclodextrin/arginine Complex
43 grams of piroxicam, 384 grams of β-cyclodextrin and 25 grams of arginine are introduced into a reactor, along with 61 grams of diffusion agent (water). Carbon dioxide is subsequently introduced into the reactor under a pressure of 15 MPa and under a temperature of 100° C. These operating conditions are maintained for a time of one hour.

reactant | piroxicam | 43 grams | CN1C(=C(C=2C=CC=CC2S1(=O)=O)O)C(=O)NC=3C=CC=CN3 | C15H13N3O4S
reactant | β-cyclodextrin | 384 grams | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
reactant | arginine | 25 grams | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Carbon dioxide | C(=O)=O | CO2
solvent | water | O | H2O
product | Piroxicam β-cyclodextrin arginine | CN1C(=C(C=2C=CC=CC2S1(=O)=O)O)C(=O)NC=3C=CC=CN3.C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O.N[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C42H70O35.C15H13N3O4S.C6H14N4O2/c43-1-8-29-15(50)22(57)36(64-8)72-30-9(2-44)66-38(24(59)17(30)52)74-32-11(4-46)68-40(26(61)19(32)54)76-34-13(6-48)70-42(28(63)21(34)56)77-35-14(7-49)69-41(27(62)20(35)55)75-33-12(5-47)67-39(25(60)18(33)53)73-31-10(3-45)65-37(71-29)23(58)16(31)51;1-18-13(15(20)17-12-8-4-5-9-16-12)14(19)10-6-2-3-7-11(10)23(18,21)22;7-4(5(11)12)2-1-3-10-6(8)9/h8-63H,1-7H2;2-9,19H,1H3,(H,16,17,20);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t8-,9-,10-,11-,12-,13-,14-,15-,16-,17-,18-,19-,20-,21-,22-,23-,24-,25-,26-,27-,28-,29-,30-,31-,32-,33-,34-,35-,36-,37-,38-,39-,40-,41-,42-;;4-/m1.0/s1
